US06894050B2
Preparation of Intermediate 6′-Acetylamino-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester (I-5b)
A mixture of N-(6-chloro-pyrazin-2-yl)-acetamide I-5a (58.6 mg, 0.34 mmol) and piperazine-1-carboxylic acid tert-butyl ester (636 mg, 3.42 mmol) in ethanol (2 mL) was stirred at reflux for 24 h. The reaction mixture was diluted with ethyl acetate (40 mL) and washed with 0.1M HCl (3×35 mL), brine, dried (Na2SO4), filtered, and evaporated to dryness. The crude residue was purified by preparative TLC using ethyl acetate as the eluant to afford the title compound I-5b (36.9 mg).

reactant | N-(6-chloro-pyrazin-2-yl)-acetamide | ClC1=CN=CC(=N1)NC(C)=O | C6H6ClN3O
reactant | piperazine-1-carboxylic acid tert-butyl ester | 3.42 mmol, 636 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | 6′-Acetylamino-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=CN=C1)NC(C)=O | C15H23N5O3
